data/oMe_Silver.jsonl
{"reaction_id": "NR-328_1-C1CCCCC1_2-c1ccccc1","level": "medium","name": "Zincke Reaction","reactants_smiles": ["c1cccc[n+]1(c1cc(cc(c1)[N+]([O-])=O)[N+]([O-])=O)","N(C1CCCCC1)c1ccccc1"],"products_smiles": ["N(C1CCCCC1)(c1ccccc1)C=CC=CC=O"],"conditions": "Polar solvent (e.g., water, ethanol)","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1CCCCC1N(c1ccccc1)C1C=CC=CN1(c1cc(cc(c1)[N+]([O-])=O)[N+]([O-])=O)","step_weight": 0,"rationale": "The amine nucleophile attacks the electron-deficient pyridinium ring, activated by nitro groups, enabling ring opening due to resonance-stabilized cationic intermediates in polar solvent."},{"step": 2,"type": "pericyclic","subtype": "electrocyclization","intermediate_smiles": "C1CCCCC1N(c1ccccc1)C=CC=CC=N(c1cc(cc(c1)[N+]([O-])=O)[N+]([O-])=O)","step_weight": 0,"rationale": "The opened chain undergoes electrocyclization driven by conjugation and relief of charge separation, forming a more stable extended π-system."},{"step": 3,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C1CCCCC1N(c1ccccc1)C=CC=CC=O","step_weight": 0,"rationale": "Nucleophilic substitution occurs as the leaving group departs, favored by the stability of the conjugated enaminone product and good leaving ability of the nitro-activated fragment."}],"description": "In the Zincke reaction, a nucleophilic amine opens an activated pyridinium ring substituted with strong electron-withdrawing nitro groups. The ring undergoes electrocyclic rearrangement, followed by substitution to yield a conjugated enaminone. Polar solvents stabilize charged intermediates, facilitating the transformation."}
{"reaction_id": "NR-312_10-C_1-C#N_2-N(C)C_3-OC_4-C(=O)C_5-CC_6-C_7-c2ccccc2_8-C(C)(C)C_9-C(=O)c2ccccc2","level": "easy","name": "Ullmann Condensation","reactants_smiles": ["c1(C#N)c(N(C)C)c(OC)c(C(=O)C)c(CC)c1O","c1(C)c(c2ccccc2)c(C(C)(C)C)c(C(=O)c2ccccc2)c(C)c1I"],"products_smiles": ["c1(C#N)c(N(C)C)c(OC)c(C(=O)C)c(CC)c1Oc2c(C)c(c2ccccc2)c(C(C)(C)C)c(C(=O)c2ccccc2)c2(C)"],"conditions": "CuI, Base","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1(C#N)c(N(C)C)c(OC)c(C(=O)C)c(CC)c1[O-]","step_weight": 0,"rationale": "Base deprotonates phenol because the phenolic proton is acidic and the resulting phenoxide is resonance-stabilized, increasing nucleophilicity for subsequent copper-mediated coupling."},{"step": 2,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "c1(C)c(c2ccccc2)c(C(C)(C)C)c(C(=O)c2ccccc2)c(C)c1[Cu](I)I","step_weight": 0,"rationale": "Cu(I) undergoes oxidative addition into the aryl–iodine bond due to the good leaving group ability of iodide and the polarizable C–I bond, forming a reactive aryl–Cu(III) species."},{"step": 3,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "c2(C)c(c2ccccc2)c(C(C)(C)C)c(C(=O)c2ccccc2)c(C)c2[Cu](I)Oc1c(C#N)c(N(C)C)c(OC)c(C(=O)C)c1(CC)","step_weight": 0,"rationale": "The phenoxide oxygen attacks the aryl–Cu complex via nucleophilic substitution, favored by the strong Cu–O bond formation and the activated aryl group bound to copper."},{"step": 4,"type": "elimination","subtype": "reductive_elimination","intermediate_smiles": "c1(C#N)c(N(C)C)c(OC)c(C(=O)C)c(CC)c1Oc2c(C)c(c2ccccc2)c(C(C)(C)C)c(C(=O)c2ccccc2)c2(C)","step_weight": 0,"rationale": "Reductive elimination from Cu(III) forms the C–O bond of the biaryl ether, driven by the thermodynamic stability of the product and regeneration of the Cu(I) catalyst."}],"description": "In the Ullmann condensation, the phenol is first deprotonated by base to form a nucleophilic phenoxide. Copper(I) catalyzes the coupling by oxidative addition to the aryl iodide, enabling nucleophilic attack and subsequent reductive elimination to form the biaryl ether linkage."}
